US05382572
Following the procedure of Step (2) of Preparation A, 6-methyl-isatoic anhydride was reacted with hexyl bromide to yield 1-hexyl-6-methyl-isatoic anhydride.

reactant | 6-methyl-isatoic anhydride | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
reactant | hexyl bromide | C(CCCCC)Br | C6H13Br
product | 1-hexyl-6-methyl-isatoic anhydride | C(CCCCC)C12C(=O)OC(NC1C=CC=C2C)=O | C15H21NO3
